data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_177405_1,[C@:1]([C:3](=[O:6])[H:11])([C:4]([C:2]([H:12])([H:13])[H:14])=[O:7])([N:5]([H:8])[H:9])[H:10]>>[C:1]([C:3]([C:4]([C:2]([H:12])([H:13])[H:14])=[O:7])=[O:6])([N:5]([H:8])[H:9])([H:10])[H:11],43.15254750001984
MR_280427_0,[C:1]1([H:15])([H:16])/[C:4](=[N:9]\[H:14])[C@@:7]1([C@@:3]1([N:6]([H:12])[H:13])[C:2]([N:5]([H:10])[H:11])=[N:8]1)[H:17]>>[C:1]1([H:15])([H:16])/[C:4](=[N:9]\[H:14])[C:2]([N:5]([H:10])[H:11])=[N:8][C:3]([N:6]([H:12])[H:13])=[C:7]1[H:17],8.98517250000026
MR_591262_1,[C:1]1([N:7]([H:14])[H:15])([H:11])[C:5]([N:3]([N:6]([H:12])[H:13])[H:9])([N:4]([C:2]([H:17])([H:18])[H:19])[H:10])[N:8]1[H:16]>>[C:1]([N:4]([C:2]([H:17])([H:18])[H:19])[H:10])(/[C:5]([N:3]([N:6]([H:12])[H:13])[H:9])=[N:8]\[H:16])([N:7]([H:14])[H:15])[H:11],37.783657499985
MR_164299_0,[C:1]([C:3]([N:4]([H:10])[H:11])=[C:5]([H:15])[H:16])([O:6][C:2]([H:12])([H:13])[H:14])([O:7][H:8])[H:9]>>[C:1](=[C:3](\[N:4]([H:10])[H:11])[C:5]([O:6][C:2]([H:12])([H:13])[H:14])([H:15])[H:16])(\[O:7][H:8])[H:9],65.06735750001326
MR_409648_2,[C:1]([N:4]([C:2]([H:11])([H:13])[H:14])[C:3]([H:12])([H:15])[H:16])([N:5]([O:6][H:7])[H:8])([H:9])[H:10]>>[C:1]([N:5]([N:4]([C:2]([H:11])([H:13])[H:14])[C:3]([H:12])([H:15])[H:16])[H:8])([O:6][H:7])([H:9])[H:10],71.06562999999284
MR_493927_2,[C:1](\[N:5]([H:10])[H:11])(=[C:6](/[C:4]([C:2]([H:13])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])[N:8]=[C:7]([H:19])[H:20])[H:12])[H:9]>>[C:1]([N:5]([H:10])[H:11])([C:6](=[C:4]([C:2]([H:13])([H:14])[H:15])[C:3]([H:16])([H:17])[H:18])[H:12])([N:8]=[C:7]([H:19])[H:20])[H:9],51.97896250002856
MR_441613_0,[C:1]12([H:6])[O:3][N:4]1[C:2]([H:7])=[N:5]2>>[c:1]1([H:6])[o:3][n:4][c:2]([H:7])[n:5]1,13.858337500002593
MR_395912_0,[C:1]1([C:2]([H:14])([H:15])[H:16])([N:6]([H:12])[H:13])[C:4]([C:3]([N:5]([H:10])[H:11])=[O:8])([H:9])[C:7]1([H:17])[H:18]>>[C:1]([C:2]([H:14])([H:15])[H:16])([C:4]([C:3]([N:5]([H:10])[H:11])=[O:8])=[C:7]([H:17])[H:18])([N:6]([H:12])[H:13])[H:9],58.36502999999212
MR_25034_2,[C:1](=[C:3]([N:4]([H:8])[H:9])[C:6]([N:5]([H:10])[H:11])([O:7][C:2]([H:15])([H:16])[H:17])[H:14])([H:12])[H:13]>>[C:1](/[C:3]([N:4]([H:8])[H:9])=[C:6](/[N:5]([H:10])[H:11])[H:14])([O:7][C:2]([H:15])([H:16])[H:17])([H:12])[H:13],52.04986999999221
MR_63165_0,[C@@:1]([C:4]([O:6][C:3]([H:14])([H:15])[H:16])=[O:8])([O:5][C:2]([H:11])([H:12])[H:13])([O:7][H:9])[H:10]>>[C@:1]([C:4]([O:5][C:2]([H:11])([H:12])[H:13])=[O:8])([O:6][C:3]([H:14])([H:15])[H:16])([O:7][H:9])[H:10],72.19450249999625
MR_668020_0,[C:1](\[C:2](=[C:4]([H:11])[H:12])[O:5][H:7])([N:3]([H:8])[H:9])=[N:6]\[H:10]>>[C:1]1([N:3]([H:8])[H:9])=[C:2]([O:5][H:7])[C:4]([H:11])([H:12])[N:6]1[H:10],57.3716975000032
MR_228290_0,[C:1]([C:4]([H:17])([H:18])[H:22])([C:5]([H:19])([H:20])[H:21])([C:6](/[C:7]([C:3]([H:14])([H:15])[H:16])=[N:8]\[C:2]([H:11])([H:12])[H:13])=[O:9])[H:10]>>[C:1]([C:4]([H:17])([H:18])[H:22])([C:5]([H:19])([H:20])[H:21])([C@:7]1([C:3]([H:14])([H:15])[H:16])[C:6]([O:9])[N:8]1[C:2]([H:11])([H:12])[H:13])[H:10],72.12861500001992
MR_284093_0,[C:1]([C:2]([H:11])([H:13])[H:14])([C:3]([H:12])([H:15])[H:16])([C:5]([C:4]([H:17])([H:18])[H:19])=[O:8])/[C:6](=[N:7]/[H:9])[H:10]>>[C:1]1([C:2]([H:11])([H:13])[H:14])([C:3]([H:12])([H:15])[H:16])[C:5]([C:4]([H:17])([H:18])[H:19])(/[C:6](=[N:7]/[H:9])[H:10])[O:8]1,72.02256749996664
MR_517486_2,[C:1]([C:2]([C:3]([O:5][H:10])[N:6][H:11])=[O:8])([O:4][H:9])=[O:7]>>[C:1]([C@@:3]1([O:5][H:10])[C:2](=[O:8])[N:6]1[H:11])([O:4][H:9])=[O:7],72.68708999996534
MR_144187_0,[C:1]1([H:10])([H:11])[C:2]([H:12])([H:13])[C:5]([N:6]([H:8])[H:9])=[C:4]([C:3]([H:14])([H:15])[H:16])[O:7]1>>[C:1]1([H:10])([H:11])[C:2]([H:12])([H:13])[C:5]1([C:4]([C:3]([H:14])([H:15])[H:16])=[O:7])[N:6]([H:8])[H:9],47.969237499986406
MR_130702_2,[C:1](/[C:3]([C:2]([H:14])([H:15])[H:16])=[C:6](/[N:5]([H:9])[H:10])[H:13])([N:4]([H:7])[H:8])([H:11])[H:12]>>[C:1](=[C:3](\[C:2]([H:14])([H:15])[H:16])[C:6]([N:5]([H:9])[H:10])([H:12])[H:13])(\[N:4]([H:7])[H:8])[H:11],67.34267249997572
MR_431346_0,[C:1](/[C:3]([C:2](=[C:4]([H:12])[H:13])[O:5][H:7])=[N:6]\[H:8])([H:9])([H:10])[H:11]>>[C:1](/[C:3]([C:2]([C:4]([H:7])([H:12])[H:13])=[O:5])=[N:6]\[H:8])([H:9])([H:10])[H:11],58.7145475000014
MR_81764_0,[C:1](/[C:3](=[C:2](/[N:4]=[O:5])[H:6])[H:7])([H:8])([H:9])[H:10]>>[C:1]([C:3]1([H:7])[C:2]([H:6])=[N:4][O:5]1)([H:8])([H:9])[H:10],35.91872750002082
MR_158033_1,[C:1]([O:5][H:7])(/[N:6]=[C:3](\[C:2]([H:12])([H:13])[H:14])[N:4]([H:8])[H:9])([H:10])[H:11]>>[C:1](=[N:6][C:3]([C:2]([H:12])([H:13])[H:14])([N:4]([H:8])[H:9])[O:5][H:7])([H:10])[H:11],51.834010000002166
MR_212114_0,[C:1]([C:3]([H:15])([H:16])[H:17])(/[C:4]([O:6][C:2]([H:12])([H:13])[H:14])=[N:7]\[H:11])([N:5]([H:9])[H:10])[H:8]>>[C:1](/[C:4]([C:3]([H:15])([H:16])[H:17])=[N:7]/[H:11])([N:5]([H:9])[H:10])([O:6][C:2]([H:12])([H:13])[H:14])[H:8],71.48166249997686
